US08859777B2
Step 1: Preparation of 4-(3-benzyloxyphenyl)-4-fluoro-3-methyl-1-(2-phenoxyethyl)piperidine Hydrochloride.
This material was prepared by the alkylation of 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride with 1-bromo-2-phenoxyethane and subsequent salt formation with methanolic hydrogen chloride as described in Step 3 of Example 1 in 67% overall yield.

reactant | 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CNCC1)C)F
reactant | 1-bromo-2-phenoxyethane | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | hydrogen chloride | Cl | ClH
product | 4-(3-benzyloxyphenyl)-4-fluoro-3-methyl-1-(2-phenoxyethyl)piperidine Hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CN(CC1)CCOC1=CC=CC=C1)C)F | InChI=1S/C27H30FNO2.ClH/c1-22-20-29(17-18-30-25-12-6-3-7-13-25)16-15-27(22,28)24-11-8-14-26(19-24)31-21-23-9-4-2-5-10-23;/h2-14,19,22H,15-18,20-21H2,1H3;1H
